US04709064
There were added 1 ml of THF and 0.6 ml of dimethylformamide to 13 mg (0.26 mmol) of sodium hydride (oiliness: 50%), to which 2 ml of a THF solution of 64 mg (0.18 mmol) of 1-benzyl-3(S)-[1(R)-t-butyldimethylsilyloxyethyl]-4(R)-(2-hydroxyethyl)-2-azetidinone on the ice bath and the mixture was stirred for 10 minutes. Thereto 0.03 ml (0.25 mmol) of benzyl bromide was added and the mixture was stirred at room temperature for a night. The reaction mixture was added with water, extracted three times with diethyl ether, and the obtained extract was washed with a saturated aqueous solution of sodium chloride, dried with anhydrous magnesium sulfate and concentrated. The obtained residue was purified by 10 g of silica gel-column chromatography (eluent; hexane:diethyl ether=1:1) to give 46 mg of 1-benzyl-4(R)-2-benzyloxyethyl)-3(S)-[1(R)-t-butyldimethylsilyloxyethyl]-2-azetidinone (yield: 58%).

reactant | sodium hydride | 0.26 mmol, 13 mg | [H-].[Na+]
reactant | 1-benzyl-3(S)-[1(R)-t-butyldimethylsilyloxyethyl]-4(R)-(2-hydroxyethyl)-2-azetidinone | 0.18 mmol, 64 mg | C(C1=CC=CC=C1)N1C([C@@H]([C@H]1CCO)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C20H33NO3Si
reactant | benzyl bromide | 0.25 mmol, 0.03 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | O | H2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | dimethylformamide | 0.6 ml | CN(C=O)C | C3H7NO
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 3(S)-[1(R)-t-butyldimethylsilyloxyethyl]-2-azetidinone | yield: 58% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(NC1)=O | C11H23NO2Si
